US05998433
b) Synthesis of 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-5-phenylsulfonylpentan-1-one
To a solution of 0.300 g (0.863 mmol) of 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-5-phenylsulfonylpentan-1-one in 20 ml of acetic acid, 0.117 ml (1.29 mmol) of 50% aqueous dimethylamine and 0.105 ml (1.29 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 20 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 1N aqueous sodium hydroxide and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform to chloroform/methanol=50/1) to yield the desired product.

reactant | 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-5-phenylsulfonylpentan-1-one | 0.863 mmol, 0.300 g | O1C=CC2=C1CN(CC2)C(CCCCS(=O)(=O)C2=CC=CC=C2)=O | C18H21NO4S
reactant | dimethylamine | 1.29 mmol, 0.117 ml | CNC | C2H7N
reactant | formaldehyde | 1.29 mmol, 0.105 ml | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-5-phenylsulfonylpentan-1-one | CN(C)CC1=CC2=C(CN(CC2)C(CCCCS(=O)(=O)C2=CC=CC=C2)=O)O1 | C21H28N2O4S
